data/mechanisms/records/IMS8-EQ8.56d.json
{"mechanism_id": "IMS8-EQ8.56d", "species": [{"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[CH2:2]=[O+:1][CH2:6][CH2:5][CH2:4][CH2:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:3]=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "distonic_oxonium_c3h6o", "mapped_smiles": "[CH2:5][CH2:6][O+:1]=[CH2:2]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["ethylene_neutral", "distonic_oxonium_c3h6o"]}], "steps": [{"step_id": "step_alpha_ethylene_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_ethylene_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ethylene_loss", "support_type": "textbook_proposed", "locator": {"page": 182, "equation": "8.56", "figure": null, "panel": null, "section": null}, "confidence": 0.7, "curator_note": "Lower branch of Equation 8.56, on the reaction arrow labelled 'alpha' leaving the ring-opened distonic ion .CH2CH2CH2CH2-O+=CH2: radical-site alpha-cleavage in which the tail radical (C3) forms the C3=C4 pi bond and the C4-C5 bond breaks, expelling neutral ethylene (printed to the left of the product as 'C2H4 +') and leaving the distonic oxonium ion .CH2CH2-O+=CH2 at m/z 58, 1%. Book draws 0 arcs for THIS branch: the two arcs visible on the m/z 58 structure belong to its subsequent step (encoded separately as IMS8-EQ8.56e), so all three fishhooks encoded here are curator-supplied for electron balance."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 86.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c3h6o_m58", "species_id": "distonic_oxonium_c3h6o", "step_id": "step_alpha_ethylene_loss", "observed_mz": 58.0413, "relative_intensity": 0.01, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
